US04061761
b. 4-Isopropyl-3-sulfamoylbenzoylchloride
5 g of 4-isopropyl-3-sulfamoylbenzoic acid were boiled under reflux in 50 ml of thionylchloride until completely dissolved and the reaction mixture was then concentrated to 25 ml under reduced pressure. After allowing to dwell over night at 0° C, the crystals were filtered off over a sinter glass frit and washed with petroleum ether. Colorless body, melting point: 177° C.

reactant | 4-isopropyl-3-sulfamoylbenzoic acid | 5 g | C(C)(C)C1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C10H13NO4S
reactant | thionylchloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-Isopropyl-3-sulfamoylbenzoylchloride | C(C)(C)C1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C10H12ClNO3S
